US09353081B2
N-[4-(1-Methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-5,6-dihydro-isoquinolin-8-yl]-propionamide
To a stirred suspension of 1-methyl-6-(8-oxo-5,6,7,8-tetrahydro-isoquinolin-4-yl)-3,4-dihydro-1H-quinolin-2-one) (919 mg, 3 mmol, example 70) and propionic acid amide (658 mg, 9 mmol) in trifluorotoluene (30 mL) was added trifluoromethane sulfonic acid (585 mg, 3.9 mmol) and the reaction was stirred at 102° C. After 4 h, a solution of trifluoromethane sulfonic acid (158 mg, 1.05 mmol) in trifluorotoluene (5 mL) was added and the reaction mixture stirred for further 8 h. After this time, propionic acid amide (219 mg, 3 mmol) and a solution of trifluoromethane sulfonic acid (158 mg, 1.05 mmol) in trifluorotoluene (5 mL) were added and the stirring continued at 102° C. over night. The reaction mixture was allowed to cool down to room temperature and aq. NaOH 2 M (30 mL) was added. The resulting mixture was extracted with dichloromethane (3×) and the organic phases washed with aq. sat. NaCl solution (2×). The combined organic phases were dried over Na2SO4, filtered and evaporated. Crystallization of the crude product (dichloromethane/ethyl acetate/heptane) afforded the title compound (915 mg, 84% yield) as off-white crystals. MS: 362.2 (M+H+).

reactant | 1-methyl-6-(8-oxo-5,6,7,8-tetrahydro-isoquinolin-4-yl)-3,4-dihydro-1H-quinolin-2-one | CN1C(CCC2=CC(=CC=C12)C1=CN=CC=2C(CCCC12)=O)=O | C19H18N2O2
reactant | propionic acid amide | 9 mmol, 658 mg | C(CC)(=O)N | C3H7NO
reactant | trifluoromethane sulfonic acid | 3.9 mmol, 585 mg | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | trifluoromethane sulfonic acid | 1.05 mmol, 158 mg | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | propionic acid amide | 3 mmol, 219 mg | C(CC)(=O)N | C3H7NO
reactant | trifluoromethane sulfonic acid | 1.05 mmol, 158 mg | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | NaOH | 2 M, 30 mL | [OH-].[Na+]
solvent | trifluorotoluene | 30 mL | FC(C1=CC=CC=C1)(F)F | C7H5F3
solvent | trifluorotoluene | 5 mL | FC(C1=CC=CC=C1)(F)F | C7H5F3
solvent | trifluorotoluene | 5 mL | FC(C1=CC=CC=C1)(F)F | C7H5F3
product | N-[4-(1-Methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-5,6-dihydro-isoquinolin-8-yl]-propionamide | 915 mg, 84% yield | CN1C(CCC2=CC(=CC=C12)C1=CN=CC=2C(=CCCC12)NC(CC)=O)=O | C22H23N3O2
